US05646149
Preparation of 6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman.
A solution of 6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman (74.11 g, 266.25 mmol), and concentrated sulfuric acid (2.5 mL) in a mixture of acetone (375 mL) and water 300 mL) was added to a distillation apparatus and warmed at reflux. Distillant was collected until the still head temperature reached 92° C. (about 1.5 h). The slurry was allowed to cool to 70° C. and 240 mL of acetone was added. The resulting mixture was allowed to cool to ambient temperature and the solid that formed was collected filtration. The solid was recrystallized from acetone and dried in a vacuum oven at 60° C. to afford 53.9 g (76.7% yield) of the desired product as a tan solid.

reactant | 6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman | 266.25 mmol, 74.11 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C16H22O4
reactant | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 375 mL | CC(=O)C | C3H6O
solvent | water | 300 mL | O | H2O
product | 6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman | 53.9 g, 76.7% yield | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
